US07053117B2
2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-7-chloro-3-cyano-4H-chromene
4-(3-bromo-4,5-dimethoxy-phenyl)-7-chloro-3-cyano-2-imino-2H-chromene: The title compound was prepared from 7-amino-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-2-imino-2H-chromene (82 mg, 0.205 mmol), t-butyl-nitrite (0.8 mL, 6 mmol) and CuCl2 (104 mg, 0.774 mmol) by a procedure similar to Example 62b and isolated as a yellow solid (16 mg). 1H NMR (CDCl3): 7.82 (s, 1H), 7.22–7.16 (m, 4H), 6.94 (d, J=1.8 Hz, 1H), 3.96 (s, 3H), 3.92 (s, 3H).

reactant | 4-(3-bromo-4,5-dimethoxy-phenyl)-7-chloro-3-cyano-2-imino-2H-chromene | BrC=1C=C(C=C(C1OC)OC)C1=C(C(OC2=CC(=CC=C12)Cl)=N)C#N | C18H12BrClN2O3
reactant | 7-amino-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-2-imino-2H-chromene | 0.205 mmol, 82 mg | NC1=CC=C2C(=C(C(OC2=C1)=N)C#N)C1=CC(=C(C(=C1)OC)OC)Br | C18H14BrN3O3
reactant | t-butyl-nitrite | 6 mmol, 0.8 mL | C(C)(C)(C)ON=O | C4H9NO2
product | 2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-7-chloro-3-cyano-4H-chromene | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)Cl | C18H14BrClN2O3
